US05719163
3-[4-(4-fluorophenyl)-5-(4-(methylsulfonyl)phenyl)oxazol-2-yl]propanamide was prepared by treating methyl 3-[4-(4-fluorophenyl)-5-(4-(methylsulfonyl)phenyl)oxazol-2-yl]propanoic acid, (Example 12) with excess ammonia in methanol for 5 days. Melting point: 193°-195° C.

reactant | methyl 3-[4-(4-fluorophenyl)-5-(4-(methylsulfonyl)phenyl)oxazol-2-yl]propanoic acid | CC(C(=O)O)CC=1OC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C20H18FNO5S
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 3-[4-(4-fluorophenyl)-5-(4-(methylsulfonyl)phenyl)oxazol-2-yl]propanamide | FC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)S(=O)(=O)C)CCC(=O)N | C19H17FN2O4S
